US04338317
The sodium salt is pulverized, suspended in 200 ml. of xylene and mixed with phenoxyethyl bromide (10.4 g., 0.052 mole) in 20 ml. of xylene. The resulting mixture is refluxed with stirring for a 64 hr. period and the hot reaction mixture filtered. The filtrate is concentrated under reduced pressure and residual material taken up in ether. Insolubles are collected and the ether filtrate concentrated to afford 22.9 g. (94%) of 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one as the free base. Purification of the product is carried out by acidifying a solution of the free base in ethanol with ethanolic hydrogen chloride, and crystallization to afford hydrated (0.25 mole) 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one hydrochloride, m.p. 175°-177° C. (30.7% yield).

reactant | sodium | [Na] | Na
reactant | phenoxyethyl bromide | 0.052 mole, 10.4 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1N=C(N(C1=O)CCOC1=CC=CC=C1)CC | C25H32ClN5O2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one hydrochloride | 0.25 mole, 30.7% yield | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1N=C(N(C1=O)CCOC1=CC=CC=C1)CC | InChI=1S/C25H32ClN5O2.ClH/c1-2-24-27-31(25(32)30(24)18-19-33-23-10-4-3-5-11-23)13-7-12-28-14-16-29(17-15-28)22-9-6-8-21(26)20-22;/h3-6,8-11,20H,2,7,12-19H2,1H3;1H
